US03978069
12.7 g (0.05 mole) phenyl-tert.-butyl-chloroacetic acid methyl ester (b.p. 96°C./0.3 mm Hg) are heated to the boil for 17 hours with 10 g imidazole and 100 ml acetonitrile. After the solvent has been distilled off in a vacuum, treatment with 70 ml of water is effected followed by extraction with methylene chloride. The methylene chloride is again extracted with 30 ml of water, dried and distilled off in a vacuum. There is so obtained the phenyl-tert.-butyl-imidazolyl-acetic acid methyl ester as oil, which solidifies after a long time.

reactant | phenyl-tert.-butyl-chloroacetic acid methyl ester | 0.05 mole, 12.7 g | COC(C(Cl)(C(C)(C)C)C1=CC=CC=C1)=O | C13H17ClO2
reactant | imidazole | 10 g | N1C=NC=C1 | C3H4N2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | phenyl-tert.-butyl-imidazolyl-acetic acid methyl ester | COC(C(C=1NC=CN1)(C(C)(C)C)C1=CC=CC=C1)=O | C16H20N2O2
